US07932272B2
To a solution of quinazoline-6-carboxylic acid ethyl ester (79 mg, 0.391 mmol) in ethanol (4 mL) was added an aqueous solution of 1N sodium hydroxide (4 mL), and the solution was stirred for 1 hour at room temperature. 1N Hydrochloric acid was added to the reaction mixture to adjust the pH to 4, and the solution was evaporated in vacuo. Ethanol was added to the residue, and the organic layer was concentrated. The residue was dissolved in an ethyl acetate-tetrahydrofuran mixture solvent, dried over anhydrous magnesium sulfate, then, evaporated in vacuo, and quinazoline-6-carboxylic acid (15 mg, 0.086 mmol, 22%) was obtained. This was used in the next reaction without purification.

reactant | quinazoline-6-carboxylic acid ethyl ester | 0.391 mmol, 79 mg | C(C)OC(=O)C=1C=C2C=NC=NC2=CC1 | C11H10N2O2
reactant | sodium hydroxide | 1N, 4 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | quinazoline-6-carboxylic acid | 0.086 mmol, 15 mg, 22% | N1=CN=CC2=CC(=CC=C12)C(=O)O | C9H6N2O2
